US09340507B2
13b: 5-Iodo-1-(2-methoxy-ethyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid
A solution 1-(2-methoxy-ethyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (150 mg, 0.71 mmol) and N-iodosuccinimide (200 mg, 0.89 mmol) in TFA (1 mL) and dichloromethane (1 mL) is stirred for 5 days at room temperature. The reaction mixture is diluted with water and extracted with dichloromethane. The organic layer is evaporate under reduced pressure. ESI mass spectrum: [M+H]+=338; Retention time HPLC: 0.95 min (Z002_005).

reactant | 1-(2-methoxy-ethyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid | 0.71 mmol, 150 mg | COCCN1C=C(C(C=C1C)=O)C(=O)O | C10H13NO4
reactant | N-iodosuccinimide | 0.89 mmol, 200 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Iodo-1-(2-methoxy-ethyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid | IC=1C(C(=CN(C1C)CCOC)C(=O)O)=O | C10H12INO4
